### PR TITLE
Refactoring and misc infrastructure from #77

### PR DESCRIPTION
**Pull request by fredrik-bakke**
- Renames `⊗` to `×₁`
- Renames `left-orthogonal-pushout` to `left-orthogonal-cobase-change`
- Adds wrapper lemmas about orthogonal types
- Adds some miscellaneous fibre computations
- Adds a `mk-arr-equiv` helper and refactors to use it

### CODE REVIEW

File: src/Synthetic/Categories/CovariantHomFamilies.lagda.tree [hunk 1]
```diff
@@ -129,46 +127,52 @@ the bottom via the universal property of the horn.}
...
-                ∙ sym-sym))
-    qinv .snd .snd (a , p)
-      = ext! ( sym ∘ pushout-rec-unique _ _ ~refl ~refl
-                      (λ _ → ∙-reflr _ ∙ sym (ap sym (ap-sym a _) ∙ sym-sym))
-             , ~refl)
+  char-coslice-lift (mk-amap top bot comm)
+    = cogap (mk-cocone (top tt .snd tt .Homᵈ.hom)
+                      bot
+                      (λ c → top tt .snd tt .Homᵈ.hom1 ∙ sym (comm c)))
+    , λ _ → Homᵈ.hom0 (top tt .snd tt)
```
Comment (samtoth) [inline src/Synthetic/Categories/CovariantHomFamilies.lagda.tree]:
```suggestion
    = cogap 
        (mk-cocone 
          (top tt .snd tt .Homᵈ.hom)
          bot
          (λ c → top tt .snd tt .Homᵈ.hom1 ∙ sym (comm c)))
    , (λ _ → Homᵈ.hom0 (top tt .snd tt))
```

File: src/Synthetic/Categories/CovariantHomFamilies.lagda.tree [hunk 2]
```diff
@@ -129,46 +127,52 @@ the bottom via the universal property of the horn.}
...
+                  ∙ ap (sym (Homᵈ.hom1 (top tt .snd tt) ∙ sym (comm tt)) ∙_)
+                      (Coslice-path-ap-fst pth)
+                  ∙ ap (_∙ top tt .snd tt .Homᵈ.hom1) (∙-symsym _ (sym (comm tt)))
+                  ∙ ∙.cancell _  (∙-sym' (Homᵈ.hom1 (top tt .snd tt)))
+                                {f = sym (sym (comm tt))}
+                  ∙ sym-sym))
+      qinv .snd .snd (a , p)
+        = ext! ( sym ∘ pushout-rec-unique _ _ ~refl ~refl
+                        (λ _ → ∙-reflr _ ∙ sym (ap sym (ap-sym a _) ∙ sym-sym))
+              , ~refl)
```
Comment (samtoth) [inline src/Synthetic/Categories/CovariantHomFamilies.lagda.tree]:
```suggestion
    char-coslice-lift-is-equiv x = is-equiv←qinv qinv where
      qinv : quasi-inv (char-coslice-lift x)
      qinv .fst (a , b) = mk-amap (λ _ → _ , (λ _ → mk-hom (a ∘ ι₁) (b tt) refl))
                                  (a ∘ ι₂)
                                  (ap a ∘ sym ∘ glue)
      qinv .snd .fst (mk-amap top bot comm)
        = let pth
            = ( top tt .snd tt .Homᵈ.hom1
              , λ i
                → ( ~refl
                  , Square-degen-vert _ _ refl
                  , Square-flatten-hor refl))
          in Arrow-map-path→
            ( (λ a → Coslice-path→ pth)
            , (~refl
            , λ _
              → ap
                  (_∙ ap fst (Coslice-path→ pth))
                  (ap-sym _ Λ[2,1]-glue ∙ ap sym (pushout-rec-apβ tt))
              ∙ ap
                  (sym (Homᵈ.hom1 (top tt .snd tt) ∙ sym (comm tt)) ∙_)
                  (Coslice-path-ap-fst pth)
              ∙ ap (_∙ top tt .snd tt .Homᵈ.hom1) (∙-symsym _ (sym (comm tt)))
              ∙ ∙.cancell _
                  (∙-sym' (Homᵈ.hom1 (top tt .snd tt)))
                  {f = sym (sym (comm tt))}
              ∙ sym-sym))
      qinv .snd .snd (a , p) = ext!
        ( sym
        ∘ pushout-rec-unique _ _ ~refl ~refl
            (λ _ → ∙-reflr _ ∙ sym (ap sym (ap-sym a _) ∙ sym-sym))
        , ~refl)
```

**Review by samtoth — APPROVED** [review]
It's amazing how much the arrow-equiv helper condenses some of these defs
